US06365736B1
A) 6-Chloro-7-nitro-2-methyl-1,4-benzoxazin-3-one
7.52 g of 2-amino-4-chloro-5-nitrophenol is added to a mixture of 1.6 g of sodium hydride in 60 ml of DMF and mixed with 1.1 equivalents of D,L-2-bromopropionic acid ethyl ester in 20 ml of THF at 5° C. It is stirred for 4 hours. The mixture is poured onto water, extracted with ethyl acetate, the organic phase is dried with magnesium sulfate and concentrated by evaporation. 1.7 g of crude product, which is recrystallized from isopropyl ether, results. The yield is 72%.

reactant | 2-amino-4-chloro-5-nitrophenol | 7.52 g | NC1=C(C=C(C(=C1)Cl)[N+](=O)[O-])O | C6H5ClN2O3
reactant | sodium hydride | 1.6 g | [H-].[Na+]
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 6-Chloro-7-nitro-2-methyl-1,4-benzoxazin-3-one | yield is 72% | ClC=1C(=CC2=C(NC(C(O2)C)=O)C1)[N+](=O)[O-] | C9H7ClN2O4
